Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right shoulder pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ previously healthy male who works in ___ 
presents with right shoulder pain, right upper extremity pain 
and swelling with weakness. 

For the last 2 weeks, he has had mild right-sided shoulder 
tenderness without any known injury. Notes that he was climbing 
a ladder for work on ___ and then the next day, he began 
to have weakness of the right upper arm with decreased range of 
motion and swelling. Notes He feels like he is unable to fully 
flex his fingers or move his arm away from his side because of 
weakness. He thinks his right hand is very swollen compared to 
the left. He has not had any fever or cough, but does note 
chills last night. No associated chest pain. For the last 2 
months he reports mild shortness of breath, but he is able to 
exercise without issue. He has no prior history of DVTs and no 
known procoagulant states. There is no family history of 
procoagulant states.

 
Past Medical History:
Abdominal pain                                                
Gastric ulcer
Borderline HTN
 
Social History:
___
Family History:
mother has a real rare muscle disorder, coronary artery disease
and breast cancer
father with hypertension, congestive heart failure, and
insulin-dependent diabetes
three male siblings, all alive and well
  
 
Physical Exam:
ADMISSION EXAM:
==============
VS: 97.9 188 / 106 62 18 98 RA   
GENERAL: Lying comfortably in bed. 
HEENT: EOMI, PERRL, anicteric sclera, MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: Right shoulder tender to palpation with increased 
warmth. Severe pain with passive ROM. Unable to range shoulder. 
Minimal swelling of forearm to distal digits. Able to make fist, 
but limited due to pain. Intact sensation over all digits. 
PULSES: 2+ pulses in all extremities. 
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: Minimal warmth over right shoulder. Minimal redness. 

DISCHARGE EXAM:
===============
VS: ___ 0720 Temp: 97.9 PO BP: 146/89 HR: 63 RR: 18 O2 sat:
96% O2 delivery: Ra 
GENERAL: Comfortable, healthy appearing male lying in bed
HEENT: EOMI, PERRL, anicteric sclera, MMM    
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding 
EXTREMITIES: Right shoulder tender to palpation with increased
warmth. Severe pain with passive ROM. Unable to range shoulder.
Minimal swelling of forearm to distal digits. Able to make fist,
but limited due to pain. Intact sensation over all digits.
Erythema within outline traced on shoulder.
PULSES: 2+ pulses in all extremities. 
NEURO: A&Ox3. Strength ___ in proximal, distal and intrinsic 
hand
muscles in RUE. Intact strength in LUE. Intact sensation in ___
UE.  
SKIN: Mild warmth over right shoulder.  

 
Pertinent Results:
ADMISSION LABS:
==============
___ 01:20PM BLOOD WBC-14.5* RBC-4.82 Hgb-15.7 Hct-45.8 
MCV-95 MCH-32.6* MCHC-34.3 RDW-12.6 RDWSD-44.0 Plt ___
___ 01:20PM BLOOD Neuts-73.7* Lymphs-16.5* Monos-8.7 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-10.67* AbsLymp-2.39 
AbsMono-1.26* AbsEos-0.05 AbsBaso-0.04
___ 01:20PM BLOOD ___ PTT-31.9 ___
___ 01:20PM BLOOD Glucose-95 UreaN-9 Creat-0.9 Na-140 K-4.8 
Cl-99 HCO3-31 AnGap-10
___ 01:20PM BLOOD CK(CPK)-132
___ 01:20PM BLOOD CRP-55.7*
___ 02:14PM BLOOD Lactate-2.2*

PERTINENT IMAGING:
=================
UNILAT UP EXT VEINS US RIGHT: No DVT within the right upper 
extremity.
GLENO-HUMERAL SHOULDER: No acute fracture or dislocation.
CT CHEST W/CONTRAST: No evidence of central venous thrombosis or 
other obstruction of the centralvenous vasculature. Small 
calcification in the soft tissue anterior to the right humeral 
head may represent calcific tendinosis.
MR BRACHIAL PLEXUS W/O CONTRAST: Unremarkable right brachial 
plexus, within limits of a noncontrast study.

DISCHARGE LABS:
===============
___ 05:00AM BLOOD WBC-9.3 RBC-4.81 Hgb-15.9 Hct-45.1 MCV-94 
MCH-33.1* MCHC-35.3 RDW-12.2 RDWSD-42.3 Plt ___
___ 05:00AM BLOOD Glucose-97 UreaN-12 Creat-0.9 Na-140 
K-4.4 Cl-100 HCO3-26 AnGap-14
___ 01:20PM BLOOD CK(CPK)-132
___ 05:00AM BLOOD Calcium-9.6 Phos-3.7 Mg-1.___ previously healthy male who works in ___ 
presents with right shoulder pain, right upper extremity pain, 
swelling and weakness.

# Right shoulder pain/weakness: The patient presented with 
subacute shoulder pain and weakness lasting ___ days. He was 
seen by neurology, and given his weakness he received an MRI of 
his brachial plexus which did not reveal any abnormality. There 
was concern for a DVT, however an ultrasound did not reveal any 
thrombosis. Given his symptoms other possibilities on the 
differential included septic arthritis, gout, pseudogout, 
reactive arthritis. Orthopedics was consulted, and on review of 
imaging the underlying process was thought to be calcific 
tendonosis. The patient remained afebrile, his leukocytosis 
downtrended without antibiotics. He was given a short course of 
oxycodone for outpt. pain management as he has a history of PUD 
and thus cannot take Nsaids. He is aware that this is for a 
short course only. When his pain was well controlled, he was 
discharged with a plan to follow up with orthopedics, his PCP, 
and with physical therapy. 

#PrEP
- Continued on Truvada inpatient. 
- He is aware of importance of safe sex practices. 

#Elevated Blood Pressure
- Blood pressure was elevated during admission. His outpt. blood 
pressure readings were reviewed from ___ and he does not have 
a history of HTN. He was asymptomatic and elevated levels were 
most likely secondary to pain. Pain was well controlled on day 
of discharge and blood pressures remained stable. We discussed 
importance of following up with his PCP to further monitor his 
blood pressure and re-evaluate any need to start an 
antihypertensive medication. 

TRANSITIONAL ISSUES:
===================
- Follow up blood pressure at first visit 
- Has follow up with sports medicine, but would benefit from ___ 
follow up as well
- Would avoid NSAIDs given history of ___ esophagus and 
gastric ulcer 

New Medications:
- Oxycodone 5mg PO Q8 PRN breakthrough pain (Total of 10 pills)

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. Nexium 20 mg Other DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  OxyCODONE (Immediate Release) ___ mg PO Q8H:PRN Pain - 
Severe Duration: 3 Days 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 8 hours as 
needed Disp #*10 Tablet Refills:*0 
3.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO BID  
5.  Nexium 20 mg Other DAILY  
6.Outpatient Physical Therapy
Date: ___
Rx: outpatient physical therapy 
ICD-10: M75.30 (calcific tendonitis) 
Duration: ongoing 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Calcific tendonosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED?
- You developed severe pain in your right shoulder
- There was concern that you might have an infection in your 
joint

WHAT WAS DONE WHILE I WAS HERE?
- You had imaging of your shoulder
- The imaging showed no compression of the nerves in your arm
- You were monitored, and you did not show signs of infection
- Your pain was controlled with IV medications, and then with 
medications taken by mouth
- When your pain was improved and we were sure that you did not 
have an  infection, you were discharged home

WHAT SHOULD I DO NOW?
-You should take your medications as instructed
-You should go to your doctor's appointments as below

We wish you the best!
-Your ___ Care Team
 
Followup Instructions:
___